US08217177B2
6-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-3-methoxyquinoline
To a 5 ml CEM microwave tube was added tert-butyl 2-(3-methoxyquinolin-6-yl)acetate (0.05 g, 0.2 mmol), 1-(6-chloropyridazin-3-yl)hydrazine (0.04 g, 0.3 mmol), water (0.5 mL) and hydrochloric acid (0.05 ml, 0.5 mmol). The vial was sealed and first heated at 90° C. for 30 min then placed into CEM microwave for 10 min. at 100° C., with 100 Watts of power via Powermax. The reaction mixture was adjusted the pH to 7 by adding 5 N NaOH-brown ppt. was generated. The brown ppt. was dissolved in DCM. The organic was washed with water, dried over MgSO4, and removed solvent in vacuo. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-026, 12 g SiO2, DCM:EtOAc:MeOH=75%:20%:5%, Flow=30 mL/min). A peak at 25 min was collected. The solvent was removed in vacuo to afford the desired product as light yellowish solid. Wt: 20.0 mg. MS (ESI pos. ion) m/z: 326.53. Calc'd exact mass for C16H12ClN5O: 325.75.

reactant | tert-butyl 2-(3-methoxyquinolin-6-yl)acetate | 0.2 mmol, 0.05 g | COC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C16H19NO3
reactant | 1-(6-chloropyridazin-3-yl)hydrazine | 0.3 mmol, 0.04 g | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | hydrochloric acid | 0.5 mmol, 0.05 ml | Cl | ClH
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 0.5 mL | O | H2O
product | 6-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-3-methoxyquinoline | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)OC | C16H12ClN5O
